US04198522
Di-isobutylaluminum hydride (54 ml., 25% solution in toluene) is added with stirring to a solution of p-hexadecylaminobenzonitrile (11.4 g.) under a nitrogen atmosphere. The temperature rises to 40° C. during the addition which takes 30 minutes, and the reaction is then stirred for 1 hour. A solution of methanol in toluene (50 ml., 1:1) is added over 30 minutes, and the mixture is poured into vigorously stirred ice-cold aqueous sulfuric acid (500 ml., 5%). After 10 minutes diatomaceous earth (30 g.) is added, the mixture filtered and the organic layer separated. The aqueous solution is extracted twice with toluene (100 ml.) and the combined organic layers are washed with aqueous sodium bicarbonate, dried over magnesium sulfate, decolorized with charcoal, filtered and evaporated in vacuo to give a light yellow crystalline solid. The crude product is dissolved in dichloromethane and filtered through magnesium silicate (80 g.) to give a white crystalline material on removal of the solvent. The solid is recrystallized from dichloromethane-hexanes giving p-hexadecylamino benzaldehyde as colorless fine needles (6.0 g.), m.p. 84°-85° C.

reactant | Di-isobutylaluminum hydride | 54 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | p-hexadecylaminobenzonitrile | 11.4 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C#N)C=C1 | C23H38N2
reactant | methanol | CO | CH4O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | p-hexadecylamino benzaldehyde | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=O)C=C1 | C23H39NO
